US04061861
Preparation of 7-[α-(2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonylamino)-4-hydroxyphenylacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid.
To 8 ml. of dry acetonitrile were added 422 mg. (1 mmole) of 7-(α-amino-4-hydroxyphenylacetamido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid. The mixture was stirred in a bath comprising acetone and wet ice, and 1.62 grams (8 mmoles) of N,O-bis-trimethylsilylacetamide were added. Solution was complete within about 5 minutes. The mixture was stirred for an additional 5 minutes, and 0.7 ml. of propylene oxide was added followed, after an additional 5 minutes, by 197 mg. (1 mmole) of 2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonyl chloride. The mixture was stirred for 105 minutes and then was rotary evaporated to about one-half volume. The concentrated reaction mixture was slowly added to rapidly-stirred ice water, and the pH of the resulting mixture, containing a percipitated gum, was adjusted from 3.8 to 1.6. The resulting mixture then was sonicated, with hardening of the gum. The resulting hard lumps were broken, sonicated, filtered, washed with dilute hydrochloric acid (pH 1.8), and air-dried to give 251 mg. of a buff powder. The filtrate was concentrated to remove acetonitrile and was filtered to afford an additional 20 mg. of a buff-colored powder. The solids were combined and added to 40 ml. of methylene chloride. The mixture was sonicated and filtered to recover 210 mg. of solid. The solid was added to 100 ml. of methylene chloride, sonicated, and filtered to obtain 200 mg. of the title compound.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | 7-(α-amino-4-hydroxyphenylacetamido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1 mmole | NC(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C1=CC=C(C=C1)O | C17H18N4O7S
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | 2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonyl chloride | 1 mmole | O=C1NC2=C(N1C(=O)Cl)C=CC=C2 | C8H5ClN2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 7-[α-(2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonylamino)-4-hydroxyphenylacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | O=C1NC2=C(N1C(=O)NC(C(=O)NC1[C@@H]3N(C(=C(CS3)COC(N)=O)C(=O)O)C1=O)C1=CC=C(C=C1)O)C=CC=C2 | C25H22N6O9S
